US07932272B2
5-Bromo-thiophene-2-carbaldehyde oxime
To a mixture of 2-bromo-5-formylthiophene (2.5 mL, 21 mmol) and pyridine (25 mL) was added hydroxylamine hydrochloride (2.2 g, 32 mmol) on an ice bath, then, the solution was stirred overnight at room temperature. This reaction mixture was concentrated in vacuo, then, partitioned with water (50 mL), ethyl acetate (50 mL) then 1N hydrochloric acid solution (50 mL). The organic layer was separated, sequentially washed with an aqueous solution of saturated sodium bicarbonate and brine, and then, dried over anhydrous magnesium sulfate. The solvent was evaporated in vacuo, the residue was washed with heptane-ethyl acetate (30:1), and the title compound (4.3 g, 21 mmol, 98%) was obtained as a light brown solid.

reactant | 2-bromo-5-formylthiophene | 21 mmol, 2.5 mL | BrC=1SC(=CC1)C=O | C5H3BrOS
reactant | hydroxylamine hydrochloride | 32 mmol, 2.2 g | Cl.NO
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
product | 5-Bromo-thiophene-2-carbaldehyde oxime | 21 mmol, 4.3 g, 98% | BrC1=CC=C(S1)C=NO | C5H4BrNOS
